US07741327B2
A solution of 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-3-(1-fluoro-cyclopentyl)-propionamide (0.330 g, 0.60 mmol) in methanol (6 mL) was treated with p-toluenesulfonic acid (0.017 g, 0.09 mmol). The reaction mixture was stirred at room temperature overnight. The solvents were removed under vacuum and ethyl acetate was added to the residue. The resulting mixture was washed with saturated sodium bicarbonate, a saturated sodium chloride solution and dried over magnesium sulfate. The mixture was filtered and evaporated which afforded 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-3-(1-fluoro-cyclopentyl)-propionamide (0.260 g, 87%) as a light yellow solid: 1H NMR (300 MHz, DMSO-d6) δ ppm 1.51-1.96 (m, 8H), 2.10-2.43 (m, 2H), 3.22-3.32 (m, 2H), 3.69-3.94 (m, 2H), 4.09 (dd, J=13.3, 3.3 Hz, 1H), 4.33 (d, J=18.3 Hz, 1H), 4.53 (d, J=18.3 Hz, 1H), 4.71 (t, J=5.3 Hz, 1H), 4.94 (d, J=5.1 Hz, 1H), 5.02 (s, 1H), 5.05-5.13 (m, 1H), 6.41 (s, 1H), 7.29-7.50 (m, 3H), 7.54 (s, 1H), 10.81 (s, 1H) HR-ES-MS m/z calculated for C24H27F3N4O5 [M+H]+, 509.2007 observed 509.2009.

reactant | 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-3-(1-fluoro-cyclopentyl)-propionamide | 0.60 mmol, 0.330 g | FC1=C(OC2=CC(N(C2)C(C(=O)NC2=NN(C=C2)C[C@H]2OC(OC2)(C)C)CC2(CCCC2)F)=O)C(=CC=C1)F | C27H31F3N4O5
reactant | p-toluenesulfonic acid | 0.09 mmol, 0.017 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 6 mL | CO | CH4O
product | 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-3-(1-fluoro-cyclopentyl)-propionamide | 0.260 g, 87% | FC1=C(OC2=CC(N(C2)C(C(=O)NC2=NN(C=C2)C[C@H](CO)O)CC2(CCCC2)F)=O)C(=CC=C1)F | C24H27F3N4O5
